US08138345B2
Preparation of 4-(1,3-Dioxolan-2-yl)phenylamine
To a mixture of platinum dioxide (227 mg, 1.00 mmol) and sodium bicarbonate (420 mg, 5.00 mmol) under dry nitrogen was added a solution of 2-(4-nitrophenyl)-1,3-dioxolane (976 mg, 5.00 mmol) in EtOH (30.0 mL). The reaction mixture was bubbled with hydrogen for 15 min and then stirred under a hydrogen atmosphere (balloon) for 2 h. The reaction mixture was then filtered through a pad of Celite washing with MeOH. The filtrate was concentrated under reduced pressure to give the title compound (0.80 g, 96% yield).

reactant | sodium bicarbonate | 5.00 mmol, 420 mg | C([O-])(O)=O.[Na+]
reactant | 2-(4-nitrophenyl)-1,3-dioxolane | 5.00 mmol, 976 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1OCCO1 | C9H9NO4
solvent | EtOH | 30.0 mL | CCO | C2H6O
catalyst | platinum dioxide | 1.00 mmol, 227 mg | [Pt](=O)=O
product | 4-(1,3-Dioxolan-2-yl)phenylamine | 0.80 g, 96% yield | O1C(OCC1)C1=CC=C(C=C1)N | C9H11NO2
